US06316637B1
2-Isopropyl-4-bromo-5-aminobenzimidazole.
To a solution of 0.95 g (5.4 mmol) of 2-isopropyl-5-aminobenzimidazole in 50 ml of AcOH was added 0.19 ml (3.7 mmol) of Br2 dropwise and resulting reaction mixture was stirred for 1 h at 25° C. Reaction mixture was concentrated in vacuc and purified on silica gel column chromatography (5% MeOH/EtOAC) to yield 0.89 g (3.5 mmol, 95%) of the desired product.

reactant | 2-isopropyl-5-aminobenzimidazole | 5.4 mmol, 0.95 g | C(C)(C)C=1NC2=C(N1)C=CC(=C2)N | C10H13N3
reactant | Br2 | 3.7 mmol, 0.19 ml | BrBr | Br2
solvent | AcOH | 50 ml | CC(=O)O | C2H4O2
product | 2-Isopropyl-4-bromo-5-aminobenzimidazole | 3.5 mmol, 0.89 g, 95% | C(C)(C)C=1NC2=C(N1)C=CC(=C2Br)N | C10H12BrN3
